US07897616B2
N-Hexyl-1-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide
1-Methyl-1,3-dihydroimidazo[4,5-b]pyridin-2-one (75 mg, 0.5 mmol) and 1-isocyanatohexane (64 mg, 0.5 mmol) were stirred at 80° C. in 3.5 ml of dioxane for 4 h. The reaction mixture was concentrated and purified by means of preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 40 mg (29%), M+H+: 277.16.

reactant | 1-Methyl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.5 mmol, 75 mg | CN1C(NC2=NC=CC=C21)=O | C7H7N3O
reactant | 1-isocyanatohexane | 0.5 mmol, 64 mg | N(=C=O)CCCCCC | C7H13NO
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
product | N-Hexyl-1-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide | C(CCCCC)NC(=O)N1C(N(C=2C1=NC=CC2)C)=O | C14H20N4O2
